US06479490B2
To a solution of 3-(1-methylindol-3-yl)-4-[3-((R)-2,2-dimethyl-1,3-dioxolan-4-ylmethylsulfanyl)phenyl]-1H-pyrrole-2,5-dione (100 mg, 0.22 mmol) in methanol (20 mL) and water (5 mL) was added oxone in 5 mL of water at 0° C. The resulting suspension was stirred at 0° C. for 30 min., and was allowed to warm to rt and stirred for 5 h. The reaction mixture was then poured into ice water and extracted with dichloromethane. The organic layer was washed with NaS2O3 (15% aq.), NaCl (sat.) and dried over sodium sulfate. Preparative TLC with 2/4/4 of acetone/dichloromethane/hexane gave 40 mg of 3-(1-methylindol-3-yl)-4-[3-((R)-2,2-dimethyl-1,3-dioxolan-4-ylmethylsulfonyl)phenyl]-1H-pyrrole-2,5-dione. MS (ESI): (M+H)+ 481.

reactant | 3-(1-methylindol-3-yl)-4-[3-((R)-2,2-dimethyl-1,3-dioxolan-4-ylmethylsulfanyl)phenyl]-1H-pyrrole-2,5-dione | 0.22 mmol, 100 mg | CN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CC(=CC=C1)SC[C@@H]1OC(OC1)(C)C)=O)=O | C25H24N2O4S
reactant | oxone | OOS(=O)[O-].[K+]
reactant | water | 5 mL | O | H2O
reactant | water | 5 mL | O | H2O
solvent | methanol | 20 mL | CO | CH4O
product | 3-(1-methylindol-3-yl)-4-[3-((R)-2,2-dimethyl-1,3-dioxolan-4-ylmethylsulfonyl)phenyl]-1H-pyrrole-2,5-dione | 40 mg | CN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CC(=CC=C1)S(=O)(=O)C[C@@H]1OC(OC1)(C)C)=O)=O | C25H24N2O6S
